US07470710B2
Description 64: (RS)-2-[1-(5,7-Dichloro-benzofuran-2-yl)-methanoyl]-4-methyl-piperazine-1-carboxylic acid tert-butyl ester
The title compound (0.94 g) was prepared from (RS)-2-(methoxy-methyl-carbamoyl)-4-methyl-piperazine-1-carboxylic acid dimethyl-ethyl ester, D54 (1.00 g) and 5,7-dichloro-benzofuran (0.65 g, FP1.537.206) using the method of Description 2.

reactant | (RS)-2-(methoxy-methyl-carbamoyl)-4-methyl-piperazine-1-carboxylic acid dimethyl-ethyl ester | CC(C)(C)OC(=O)N1C(CN(CC1)C)C(N(C)OC)=O | C13H25N3O4
reactant | 5,7-dichloro-benzofuran | 0.65 g | ClC=1C=C(C2=C(C=CO2)C1)Cl | C8H4Cl2O
product | (RS)-2-[1-(5,7-Dichloro-benzofuran-2-yl)-methanoyl]-4-methyl-piperazine-1-carboxylic acid tert-butyl ester | 0.94 g | C(C)(C)(C)OC(=O)N1C(CN(CC1)C)C(=O)C=1OC2=C(C1)C=C(C=C2Cl)Cl | C19H22Cl2N2O4
